US09226916B2
rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid phenyl ester
In analogy to the procedure described for the synthesis of example 2 (step b), the title compound rac-{(3R,4S)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid phenyl ester was prepared from rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using phenyl chloroformate instead of 4-fluorophenyl chloroformate and was obtained as a light brown foam. MS m/e: 558.0 [M]+.

reactant | rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)[C@H]1CN(C[C@@H]1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | rac-{(3R,4S)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)=O | C29H33Cl2N3O4
